US08895582B2
To a solution of (S)-methyl 4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentanoate (40 g, 0.111 mol) in THF (100 mL) and MeOH (5.0 mL) was added LiBH4 (2M in THF, 56.0 mL, 0.112 mol) at 0° C. The reaction mixture was stirred at RT for 2 h. The reaction mixture was cooled to 0° C. and slowly quenched with saturated NaHCO3 solution. The resulting mixture was stirred RT overnight and filtered. The solid was washed with EtOAc. The combined filtrate was diluted with an additional EtOAc (200 mL). The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated to give (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-5-hydroxypentan-2-ylcarbamate (39.5 g), which was used without further purification. LRMS (M+Na+) m/z 356.4.2.

reactant | (S)-methyl 4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentanoate | 0.111 mol, 40 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC)CO[Si](C)(C)C(C)(C)C | C17H35NO5Si
reactant | LiBH4 | 0.112 mol, 2M, 56.0 mL | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5.0 mL | CO | CH4O
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-5-hydroxypentan-2-ylcarbamate | 39.5 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCCO)NC(OC(C)(C)C)=O | C16H35NO4Si
